US04472433
Preparation of sodium 2-[2-amino-3-(2-aminophenoxy)phenyl]acetate
A mixture of 2-oxo-7-(2-aminophenoxy)indoline (3.5 g.), sodium hydroxide (1.2 g.), dioxane (10 ml.) and water (50 ml.) was refluxed under heating for 48 hours with stirring. After cooling, the reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethanol under warming and filtered. The filtrate was concentrated under reduced pressure, and the residue was crystallized with a mixture of ethanol and ethyl acetate to give the captioned compound (3 g.). mp 103° to 110° C.

reactant | 2-oxo-7-(2-aminophenoxy)indoline | 3.5 g | O=C1NC2=C(C=CC=C2C1)OC1=C(C=CC=C1)N | C14H12N2O2
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | sodium 2-[2-amino-3-(2-aminophenoxy)phenyl]acetate | NC1=C(C=CC=C1OC1=C(C=CC=C1)N)CC(=O)[O-].[Na+] | InChI=1S/C14H14N2O3.Na/c15-10-5-1-2-6-11(10)19-12-7-3-4-9(14(12)16)8-13(17)18;/h1-7H,8,15-16H2,(H,17,18);/q;+1/p-1
